US07223764B2
2,4-Dichloro-6-methyl-3-nitropyridine (30 g, 144.9 mmol) was dissolved in 2,2,2-trifluoroethanol (250 mL), and potassium carbonate (50 g, 361.8 mmol) was added thereto, followed by reflux for 21 hours. The reaction mixture was diluted with water, and then subjected to extraction with chloroform. The organic layer was washed with saturated brine and then dried over sodium sulfate anhydrate, followed by concentration under reduced pressure, to thereby yield 2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-nitropyridine (45.40 g, yield 94%) as a pale yellow solid.

reactant | 2,4-Dichloro-6-methyl-3-nitropyridine | 144.9 mmol, 30 g | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C | C6H4Cl2N2O2
reactant | potassium carbonate | 361.8 mmol, 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethanol | 250 mL | FC(CO)(F)F | C2H3F3O
solvent | water | O | H2O
product | 2,4-bis(2,2,2-trifluoroethoxy)-6-methyl-3-nitropyridine | 45.40 g, yield 94% | FC(COC1=NC(=CC(=C1[N+](=O)[O-])OCC(F)(F)F)C)(F)F | C10H8F6N2O4
